US04909935
The compound of this example [(S)-N-1-phenylethyl-4-allyloxybenzamide] was prepared in exactly the same manner as (S)-N-1-(1-naphthyl)ethyl-4-allyloxybenzamide in Example 1 except 2.5 g (0.014 mole) of (S)-1-phenylethylamine was used in Example 2 rather than 2 g (0.012 mole) of (S)-1-(1-naphthyl)ethylamine in Example 1. The (S)-N-1-phenylethyl-4-allyloxybenzamide product was isolated in a 67% yield; mp 147°-148° C.; [α]D25 -12.62° (c=0.745, CHCl3); IR (KBr): 3380 and 1640 cm-1 ; NMR (δ): 1.64 (3H, d, J=7.4 Hz), 4.60 (2H, d, J=4.4 Hz), 5.28-5.52 (3H, m), 5.88-6.60 (2H, m), 6.92 (2H, d, J=8.9 Hz), 7.16-7.44 (5H, m), 7.76 (2H, d, J=8.9 Hz). Anal. for C18H19NO2 ; Calcd: C, 76.87; H, 6.76; Found: C, 77.02; H, 6.82.

reactant | (S)-N-1-(1-naphthyl)ethyl-4-allyloxybenzamide | C1(=CC=CC2=CC=CC=C12)[C@H](C)NC(C1=CC=C(C=C1)OCC=C)=O | C22H21NO2
reactant | (S)-1-phenylethylamine | 0.014 mole, 2.5 g | C1(=CC=CC=C1)[C@H](C)N | C8H11N
reactant | (S)-1-(1-naphthyl)ethylamine | 0.012 mole, 2 g | C1(=CC=CC2=CC=CC=C12)[C@H](C)N | C12H13N
product | (S)-N-1-phenylethyl-4-allyloxybenzamide | C1(=CC=CC=C1)[C@H](C)NC(C1=CC=C(C=C1)OCC=C)=O | C18H19NO2
